US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-aminobenzamide (46.0 mg) were used to obtain (2S,4S)-1-[[N-[4-[N-(4-carbamoylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (13.2 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-aminobenzamide | 46.0 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
product | (2S,4S)-1-[[N-[4-[N-(4-carbamoylphenyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 13.2 mg | C(N)(=O)C1=CC=C(C=C1)NC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C23H28FN5O3
